US08183231B2
[(R)-3-((S)-2-Amino-4-methyl-pentanoylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid
Step 4, Method B of Example 1 was substantially repeated in this Example 5 except for employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-L-leucine as the starting materials. Subsequent hydrogenation of the resulting benzyl ester in accordance with the procedures of Step 5, Method A of Example 1 yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 4.18-3.98 (m, 1H), 3.83 (t, 1H), 3.52-3.38 (m, 1H), 3.35-3.20 (m, 1H), 1.95 (br d, 2H), 1.83-1.58 (m, 9H), 1.52 (dd, 2H), 1.42-1.15 (m, 3H), 1.10-0.95 (m, 8H). 31P NMR (CD3OD, 300 MHz): δ 41. LCMS m/z: [M+H]+=349.2.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-L-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
product | [(R)-3-((S)-2-Amino-4-methyl-pentanoylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)CC(C)C | C16H33N2O4P
